US07262200B2
Preparation of 6-[4-(5-Isopropyl-2H-pyrazol-3-ylamino)-quinazolin-2-ylamino]-1,2-dihydro-indazol-3-one
To a solution of (2-chloro-quinazolin-4-yl)-(5-isopropyl-2H-pyrazol-3-yl)-amine (50 mg, 0.17 mmol) in NMP (1 mL) was added 6-amino-3-oxo-2,3-dihydro-indazole-1-carboxylic acid tert-butyl ester (65 mg, 0.26 mmol). The mixture was heated at 130° C. for 3 hrs, cooled to room temperature, and then poured into water. The crude material was collected by filtration and treated with TFA in CH2Cl2 for 30 min.

reactant | (2-chloro-quinazolin-4-yl)-(5-isopropyl-2H-pyrazol-3-yl)-amine | 0.17 mmol, 50 mg | ClC1=NC2=CC=CC=C2C(=N1)NC=1NN=C(C1)C(C)C | C14H14ClN5
reactant | 6-amino-3-oxo-2,3-dihydro-indazole-1-carboxylic acid tert-butyl ester | 0.26 mmol, 65 mg | C(C)(C)(C)OC(=O)N1NC(C2=CC=C(C=C12)N)=O | C12H15N3O3
reactant | water | O | H2O
solvent | NMP | 1 mL | CN1CCCC1=O | C5H9NO
product | 6-[4-(5-Isopropyl-2H-pyrazol-3-ylamino)-quinazolin-2-ylamino]-1,2-dihydro-indazol-3-one | C(C)(C)C=1C=C(NN1)NC1=NC(=NC2=CC=CC=C12)NC1=CC=C2C(NNC2=C1)=O | C21H20N8O
